US06265411B1
2M Hydrochloric acid (2.75 ml, 5.5 mmol) was added to a solution of 4-(5-bromo-1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline (300 mg, 0.55 mmol) in ethanol (20 ml) at 90° C. The mixture was heated for 1 hour, the solid product was collected by filtration and purified on a Diaion (trade mark of Mitsubishi) HP20SS resin column, eluting with acetonitrile (using a gradient of 0 to 100%) in hydrochloric acid (pH2). Concentration of the fractions by evaporation gave a precipitate which was collected by filtration, washed with water to give a solid which was purified again by column flash chromatography using an increasingly polar mixture of methylene chloride/methanol (95/5 to 80/20) as eluent. After evaporation of the solvent, the resulting solid was dissolved in a minimum volume of methanol and a 2.9M solution of hydrogen chloride in ether was added to the solution. The solid was collected by filtration, washed with ether and dried under vacuum to give 4-(5-bromooxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline as a hydrochloride salt (74 mg, 30%) as an orange solid.

reactant | Hydrochloric acid | 5.5 mmol, 2M, 2.75 ml | Cl | ClH
reactant | 4-(5-bromo-1-diethoxymethyloxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.55 mmol, 300 mg | BrC=1C=C2C(C(N(C2=CC1)C(OCC)OCC)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C25H28BrN3O6
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(5-bromooxindol-3-yl)-6-methoxy-7-(2-methoxyethoxy)quinazoline | BrC=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C20H18BrN3O4
